US07087605B2
Benzyl 4-(2-cyclopentyl-5-ethyl-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-7-yl)-1-piperidinecarboxylate
In analogy to the procedure for Example 1, 500 mg (1.07 mmol) crude benzyl 4-({[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]amino}carbonyl)-1-piperidinecarboxylate, 248 mg (1.7 mmol) phosphoric trichloride are stirred at reflux for 4 hours, proportionate amounts of the solvents are used. The product is purified by chromatography (preparative HPLC).

reactant | benzyl 4-({[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]amino}carbonyl)-1-piperidinecarboxylate | 1.07 mmol, 500 mg | C1(CCCC1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C25H33N5O4
reactant | phosphoric trichloride | 1.7 mmol, 248 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Benzyl 4-(2-cyclopentyl-5-ethyl-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-7-yl)-1-piperidinecarboxylate | C1(CCCC1)C1=NN2C(C(N1)=O)=C(N=C2C2CCN(CC2)C(=O)OCC2=CC=CC=C2)CC | C25H31N5O3
